US05160661
A solution of 1.51 g of 6-(4-fluorophenyl)-3-pyridinecarboxaldehyde and 1.10 g of 2-propyl-1,3-propanediol in 50 ml of toluene was treated with 10 drops of 10 percent (v/v) sulphuric acid. The mixture was heated to boiling for 1.5 hours, whereby moist toluene was distilled off and replaced by fresh toluene. Then, the reaction mixture was neutralized with triethylamine and, after cooling, washed three times with water, dried over sodium sulphate and concentrated. Chromatographic purification of the residue on 60 g of silica gel with toluene/acetone (vol. 99:1) and two-fold recrystallization of the trans/cis mixture from hexane/ethyl acetate (vol. 1:1) gave 0.51 g of pure 5-(trans-5-propyl-1,3-dioxan-2-yl)-2-(4-fluorophenyl)pyridine; m.p. (C-SA) 106.5° C., SA -N 117.5° C., cl.p. (N-I) 163° C.

reactant | 6-(4-fluorophenyl)-3-pyridinecarboxaldehyde | 1.51 g | FC1=CC=C(C=C1)C1=CC=C(C=N1)C=O | C12H8FNO
reactant | 2-propyl-1,3-propanediol | 1.10 g | C(CC)C(CO)CO | C6H14O2
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 5-(trans-5-propyl-1,3-dioxan-2-yl)-2-(4-fluorophenyl)pyridine | 0.51 g | C(CC)[C@H]1CO[C@@H](OC1)C=1C=CC(=NC1)C1=CC=C(C=C1)F | C18H20FNO2
